US08119806B2
Step A: (3R,3aS,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl nitrate
To a solution of fuming nitric acid (0.92 mL, 22.2 mmol) in CH2Cl2 (44 mL) and acetic anhydride (2.10 mL, 22.2 mmol) cooled to −20° C., 1,4:3,6-dianhydro-D-mannitol (2.50 g, 17.1 mmol) was added as solid. After the reaction mixture was stirred at 0° C. for 3 hours, it was slowly poured into ice/NaHCO3. The organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure. The crude residue was purified by flash chromatography (Biotage SP1, column SNAP 100, EtOAc/n-hexane from 30 to 100%), affording the title product as a white solid (1.35 g, yield 41%). 1H-NMR (300 MHz, CDCl3); δ 5.39 (1H, q), 4.89 (1H, t), 4.49 (1H, t), 4.35-4.27 (1H, m), 4.10-4.04 (2H, m), 3.58 (2H, t), 2.40 (1H, d).

reactant | nitric acid | 22.2 mmol, 0.92 mL | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 22.2 mmol, 2.10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,4:3,6-dianhydro-D-mannitol | 17.1 mmol, 2.50 g | C1[C@H]([C@@H]2[C@H](O1)[C@@H](CO2)O)O | C6H10O4
solvent | CH2Cl2 | 44 mL | C(Cl)Cl | CH2Cl2
product | (3R,3aS,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl nitrate | 1.35 g, yield 41% | [N+](=O)(O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O)[O-] | C6H9NO6
